US06716851B2
4-(5-Methoxy-2-nitroanilino)-2-(2-pyrazinyl)-6-trifluoromethylpyrimidine
The title compound was prepared from 4-chloro-2-(2-pyrazinyl)-6-trifluoromethylpyrimidine (40 mg, 0.153 mmol) and 5-methoxy-2-nitroaniline (39 mg, 0.230 mmol), similar to Example 180 and was isolated as an off white solid (35 mg, 58%). 1H NMR (CDCl3): 9.69 (d, J=1.5 Hz, 1H), 8.83 (dd, J=1.5, 2.4 Hz, 1H), 8.72 (d, J=2.4 Hz, 1H), 8.08 (d, J=9.6 Hz, 1H), 7.11 (s, 1H), 6.27 (dd, J=2.7, 9.6 Hz, 1H), 6.15 (d, J=2.7 Hz, 1H), 3.83 (s, 3H).

reactant | 4-chloro-2-(2-pyrazinyl)-6-trifluoromethylpyrimidine | 0.153 mmol, 40 mg | ClC1=NC(=NC(=C1)C(F)(F)F)C1=NC=CN=C1 | C9H4ClF3N4
reactant | 5-methoxy-2-nitroaniline | 0.230 mmol, 39 mg | COC=1C=CC(=C(N)C1)[N+](=O)[O-] | C7H8N2O3
product | 4-(5-Methoxy-2-nitroanilino)-2-(2-pyrazinyl)-6-trifluoromethylpyrimidine | COC=1C=CC(=C(NC2=NC(=NC(=C2)C(F)(F)F)C2=NC=CN=C2)C1)[N+](=O)[O-] | C16H11F3N6O3
